=========================================================================================================

[BSP75N]
*ZETEX BSP75N Spice Model v1.0 Last revision 22/02/07
    *
    .SUBCKT BSP75 1 2 3
    *------connections-------D-G-S
    *
    M1 31 4 33 33 Mmod1
    M2 4 4 43 3 Mmod2 M=25
    M3 41 37 38 38 Mmod3
    M4 16 18 17 3 Mmod2 M=200
    M5 15 16 17 3 Mmod2 M=200
    M6 14 15 3 3 Mmod2 M=400
    R1 2 4 20E3
    R2 41 31 0.01
    R3 3 33 0.25
    R4 1 3 10E6
    R5 37 3 20E3
    R6 2 13 15E3
    R7 2 12 1.7E3
    R8 12 10 30E3
    R9 12 11 28E3
    R10 11 3 2300
    R11 13 16 35E3
    R12 13 15 35E3
    R13 17 3 2.5E3
    R14 4 14 300
    R15 18 45 50E3
    C1 4 33 200E-12
    C2 4 1 60E-12
    C3 35 33 200E-12
    S1 43 3 41 42 Smod1
    S2 4 35 31 4 Smod2
    S3 34 35 31 4 Smod3
    E1 42 3 2 3 0.22
    E2 34 33 4 33 1
    E3 18 19 11 10 100
    D1 5 2 Dmod1
    D2 5 3 Dmod1
    D3 38 4 Dmod3
    D4 3 12 Dmod4
    D5 3 13 Dmod5
    D6 10 3 Dmod6
    D7 37 41 Dmod7
    D8 3 1 Dmod8
    D9 3 45 Dmod2
    *
    *
    *Distributed Thermal Model - minimum copper Rth=208 and infin;C/W
    *To enable thermal feedback change *G1 to G1
    V1 1 41 0
    *G1 3 20 VALUE = {ABS( I(V1) * V(1,3) ) }
    R21 20 21 0.07
    R22 21 22 0.17
    R23 22 23 0.37
    R24 23 24 1.34
    R25 24 25 2.80
    R26 25 26 11.19
    R27 26 27 48.10
    R28 27 28 78.30
    R29 28 29 65.99
    C21 20 21 7.45E-5
    C22 21 22 2.98E-4
    C23 22 23 8.94E-4
    C24 23 24 2.23E-3
    C25 24 25 1.97E-2
    C26 25 26 3.58E-2
    C27 26 27 5.61E-2
    C28 27 28 4.47E-1
    C29 28 29 1.36
    V2 29 3 25
    E4 19 3 22 29 0.201
    *Junction temperature node 20 at 1V=1 and infin;C
    *Ambient temperature set V2 at 1V=1 and infin;C
    *
    *
    .MODEL Mmod1 NMOS (LEVEL=1 VTO=1.95 IS=1E-15 KP=2.2)
    .MODEL Mmod2 NMOS (LEVEL=1 VTO=2.5 CGDO=5E-7 CGSO=5E-7)
    .MODEL Mmod3 NMOS (LEVEL=1 VTO=1.95 IS=1E-15 KP=0.002 RS=150 CGDO=5E-7 CGSO=5E-7)
    .MODEL Dmod1 D (RS=11 BV=11)
    .MODEL Dmod2 D (RS=1 BV=5 CJO=10p)
    .MODEL Dmod3 D (RS=10 BV=12)
    .MODEL Dmod4 D (RS=10 BV=4)
    .MODEL Dmod5 D (RS=10 BV=7)
    .MODEL Dmod6 D (IS=1E-14 RS=10 BV=12)
    .MODEL Dmod7 D (RS=1 BV=65)
    .MODEL Dmod8 D (IS=6E-13 RS=.13 N=1.01 BV=82 CJO=200E-12)
    .MODEL Smod1 VSWITCH RON=700 ROFF=1E6  VON=0.5 VOFF=-1.5
    .MODEL Smod2 VSWITCH RON=1 ROFF=1E6  VON=-0.5 VOFF=0.5
    .MODEL Smod3 VSWITCH RON=1 ROFF=1E6  VON=0.5 VOFF=-0.5
    .ENDS
    *
    *$
    *

=========================================================================================================

[ZXMS6001N3]
*
*DIODES_INC_SPICE_MODEL
*ORIGIN=DZSL_DPG
*SIMULATOR=PSPICE
*DATE=27/11/09
*VERSION=2
*PIN_ORDER         D G S
*
.SUBCKT ZXMS6001N3 1 2 3
M1 31 4 33 33 Mmod1
M2 4 4 43 3 Mmod2 M=25
M3 41 37 38 38 Mmod3
M4 16 45 17 3 Mmod2 M=200
M5 15 16 17 3 Mmod2 M=200
M6 14 15 3 3 Mmod2 M=400
R1 2 4 20E3
R2 41 31 0.01
R3 3 33 0.25
R4 1 3 10E6
R5 37 3 20E3
R6 2 13 15E3
R7 2 3 26E3
R8 12 10 30E3
R9 12 11 28E3
R10 11 3 2.3E3
R11 13 16 35E3
R12 13 15 35E3
R13 17 3 2.5E3
R14 4 14 300
R15 18 45 50E3
R16 44 12 1.2E3
C1 4 33 400E-12
C2 4 1 75E-12
C3 35 36 400E-12
C4 16 3 200E-12
S1 43 3 41 42 Smod1
S2 4 35 31 4 Smod2
S3 34 35 31 4 Smod3
E1 42 3 2 3 0.22
E2 34 33 4 33 1
E3 18 19 11 10 100
E4 44 3 2 3 1
E6 36 3 31 4 1
D1 5 2 Dmod1
D2 5 3 Dmod1
D3 38 4 Dmod3
D4 3 12 Dmod4
D5 3 13 Dmod5
D6 10 3 Dmod6
D7 37 41 Dmod7
D8 3 1 Dmod8
D9 3 45 Dmod2
V1 1 41 0
*
*Distributed Thermal Model for device mounted on minimum copper Rth=208°C/W
*To enable thermal feedback for transient analysis only change **G1 to G1
*Transient junction temperature may be observed at node 100 where 1V=1°C
*
**G1 3 20 VALUE =  {ABS( I(V1) * V(1,3) ) }
R21 20 21 0.07
R22 21 22 0.17
R23 22 23 0.37
R24 23 24 1.34
R25 24 25 2.80
R26 25 26 11.19
R27 26 27 48.10
R28 27 28 78.30
R29 28 29 65.99
C21 20 21 7.45E-5
C22 21 22 2.98E-4
C23 22 23 8.94E-4
C24 23 24 2.23E-3
C25 24 25 1.97E-2
C26 25 26 3.58E-2
C27 26 27 5.61E-2
C28 27 28 4.47E-1
C29 28 29 1.36
V2 29 3 25
E5 19 3 22 29 0.201
*Junction temperature at node 20 is 1V/°C
*Ambient temperature set V2 at 1V per 1°C
*
*
.MODEL Mmod1 NMOS (LEVEL=1 VTO=1.95 IS=1E-15 KP=2.2 )
.MODEL Mmod2 NMOS (LEVEL=1 VTO=2.5)
.MODEL Mmod3 NMOS (LEVEL=1 VTO=1.95 IS=1E-15 KP=0.002 RS=150)
.MODEL Dmod1 D (RS=11 BV=11)
.MODEL Dmod2 D (RS=1 BV=5 CJO=10p)
.MODEL Dmod3 D (RS=10 BV=12)
.MODEL Dmod4 D (RS=10 BV=4)
.MODEL Dmod5 D (RS=10 BV=7)
.MODEL Dmod6 D (IS=1E-14 RS=10 BV=12)
.MODEL Dmod7 D (RS=1 BV=65)
.MODEL Dmod8 D (IS=6E-13 RS=.13 N=1.01 BV=82 CJO=200E-12)
.MODEL Smod1 VSWITCH RON=6000 ROFF=1E6  VON=0.5 VOFF=-1.5
.MODEL Smod2 VSWITCH RON=1 ROFF=1E6  VON=-0.5 VOFF=0.5
.MODEL Smod3 VSWITCH RON=1 ROFF=1E6  VON=0.5 VOFF=-0.5
.ENDS
*
*$

=========================================================================================================

[ZXMS6004FF]
*
*DIODES_INC_SPICE_MODEL
*ORIGIN=DZSL_DPG
*SIMULATOR=PSPICE
*DATE=08/12/2009
*VERSION=2
*PIN_ORDER         D G S
*
.SUBCKT ZXMS6004FF 1 2 3
M1 31 40 33 33 Mmod1
M2 4 4 21 3 Mmod2 M=40
M3 41 37 38 38 Mmod3
M6 14 51 3 3 Mmod2 M=400
R1 2 4 60E3
R2 41 31 0.01
R3 3 33 0.35
R4 41 3 10E6
R5 37 3 20E3
R7 2 12 600
R8 12 10 50E3
R10 50 3 1000
R11 12 52 98E3
R12 3 52 2E3
R13 51 52 120E3
R14 4 14 500
R15 110 111 Rmod1 1
C1 4 33 200E-12
C2 4 31 50E-12
C3 35 31 200E-12
C4 52 3 50E-12
S1 21 3 41 22 Smod1
S2 4 35 31 4 Smod2
S3 34 35 31 4 Smod3
E1 22 3 2 3 0.22
E2 34 33 4 33 1
E3 19 3 103 109 4E-3
E4 19 50 value={V(10)-V(52)-0.50}
E5 51 3 value={V(12)*((TANH(V(50)*100)+1)/2)}
E6 4 40 100 3 4.2e-3
E7 109 3 value={(V(110)*1000)+27}
D1 5 2 Dmod1
D2 5 3 Dmod1
D3 38 4 Dmod3
D4 3 12 Dmod4
D5 13 3 Dmod6
D6 10 13 Dmod6
D7 37 41 Dmod7
D8 3 41 Dmod8
V1 1 41 0
V2 3 111 1
I1 3 110 1
*
* Distributed Thermal Model 15mm x 15mm x 1.6mm FR4 1oz Cu
* To enable thermal feedback for transient analysis only change **G1 to G1
* Transient junction temperature may be observed at node 100 where 1V=1°C
*
**G1 3 100 value={ABS( I(V1) * V(1,3) ) }
R21 100 101 0.23
R22 101 102 0.275
R23 102 103 1.265
R24 103 104 2.875
R25 104 105 10.925
R26 105 106 28.175
R27 106 107 29.67
R28 107 108 11.73
R29 108 109 67.85
C21 100 101 2.17E-5
C22 101 102 1.09E-4
C23 102 103 2.37E-4
C24 103 104 6.61E-4
C25 104 105 2.563E-3
C26 105 106 6.744E-3
C27 106 107 2.7974E-2
C28 107 108 0.8525
C29 108 109 0.8843
*
.MODEL Mmod1 NMOS (LEVEL=1 VTO=1.35 IS=1E-15 KP=10)
.MODEL Mmod2 NMOS (LEVEL=1 VTO=2.7 )
.MODEL Mmod3 NMOS (LEVEL=1 VTO=1.95 IS=1E-15 KP=0.001 RS=10)
.MODEL Dmod1 D (RS=11 BV=11)
.MODEL Dmod2 D (RS=1 BV=5 CJO=10p)
.MODEL Dmod3 D (RS=10 BV=12)
.MODEL Dmod4 D (RS=10 BV=6)
.MODEL Dmod5 D (RS=10 BV=7)
.MODEL Dmod6 D (IS=1E-14 RS=10 BV=12)
.MODEL Dmod7 D (RS=1 BV=65)
.MODEL Dmod8 D (IS=1E-13 RS=0.05 N=1.005 BV=90 CJO=212E-12 M=0.5 VJ=0.75)
.MODEL Smod1 VSWITCH RON=100 ROFF=1E6  VON=0.5 VOFF=0
.MODEL Smod2 VSWITCH RON=1 ROFF=1E6  VON=-0.5 VOFF=0.5
.MODEL Smod3 VSWITCH RON=1 ROFF=1E6  VON=0.5 VOFF=-0.5
.MODEL Rmod1 RES (TC1=1e-3)
.ENDS
*
*$

=========================================================================================================

[BSP75G]
*
*DIODES_INC_SPICE_MODEL
*ORIGIN=DZSL_DPG
*SIMULATOR=PSPICE
*DATE=12/11/2009
*VERSION=1
*PIN_ORDER         D G S
*
.SUBCKT BSP75G 1 2 3
M1 31 4 33 33 Mmod1
M2 4 4 43 3 Mmod2 M=25
M3 41 37 38 38 Mmod3
M4 16 18 17 3 Mmod2 M=200
M5 15 16 17 3 Mmod2 M=200
M6 14 15 3 3 Mmod2 M=400
R1 2 4 20E3
R2 41 31 0.01
R3 3 33 0.25
R4 1 3 10E6
R5 37 3 20E3
R6 2 13 15E3
R7 2 12 1.7E3
R8 12 10 30E3
R9 12 11 28E3
R10 11 3 2300
R11 13 16 35E3
R12 13 15 35E3
R13 17 3 2.5E3
R14 4 14 300
R15 18 45 50E3
C1 4 33 200E-12
C2 4 1 60E-12
C3 35 33 200E-12
S1 43 3 41 42 Smod1
S2 4 35 31 4 Smod2
S3 34 35 31 4 Smod3
E1 42 3 2 3 0.22
E2 34 33 4 33 1
E3 18 19 11 10 100
D1 5 2 Dmod1
D2 5 3 Dmod1
D3 38 4 Dmod3
D4 3 12 Dmod4
D5 3 13 Dmod5
D6 10 3 Dmod6
D7 37 41 Dmod7
D8 3 1 Dmod8
D9 3 45 Dmod2
*
*Distributed Thermal Model for device mounted on minimum copper Rth=208°C/W
*To enable thermal feedback for transient analysis change **G1 to G1
V1 1 41 0
**G1 3 20 VALUE = {ABS( I(V1) * V(1,3) ) }
R21 20 21 0.07
R22 21 22 0.17
R23 22 23 0.37
R24 23 24 1.34
R25 24 25 2.80
R26 25 26 11.19
R27 26 27 48.10
R28 27 28 78.30
R29 28 29 65.99
C21 20 21 7.45E-5
C22 21 22 2.98E-4
C23 22 23 8.94E-4
C24 23 24 2.23E-3
C25 24 25 1.97E-2
C26 25 26 3.58E-2
C27 26 27 5.61E-2
C28 27 28 4.47E-1
C29 28 29 1.36
V2 29 3 25
E4 19 3 22 29 0.201
*Junction temperature at node 20 is 1V/°C
*Ambient temperature set V2 at 1V per 1°C
*
.MODEL Mmod1 NMOS (LEVEL=1 VTO=1.95 IS=1E-15 KP=2.2)
.MODEL Mmod2 NMOS (LEVEL=1 VTO=2.5 CGDO=5E-7 CGSO=5E-7)
.MODEL Mmod3 NMOS (LEVEL=1 VTO=1.95 IS=1E-15 KP=0.002 RS=150
+ CGDO=5E-7 CGSO=5E-7)
.MODEL Dmod1 D (RS=11 BV=11)
.MODEL Dmod2 D (RS=1 BV=5 CJO=10p)
.MODEL Dmod3 D (RS=10 BV=12)
.MODEL Dmod4 D (RS=10 BV=4)
.MODEL Dmod5 D (RS=10 BV=7)
.MODEL Dmod6 D (IS=1E-14 RS=10 BV=12)
.MODEL Dmod7 D (RS=1 BV=65)
.MODEL Dmod8 D (IS=6E-13 RS=.13 N=1.01 BV=82 CJO=200E-12)
.MODEL Smod1 VSWITCH RON=3.9E3 ROFF=1E6  VON=0.5 VOFF=-1.5
.MODEL Smod2 VSWITCH RON=1 ROFF=1E6  VON=-0.5 VOFF=0.5
.MODEL Smod3 VSWITCH RON=1 ROFF=1E6  VON=0.5 VOFF=-0.5
.ENDS
*
*$

=========================================================================================================